US08455638B2
Step A. 2-(6-Chloropyrazin-2-yl)phenol
To a mixture of 2,6-dichloropyrazine (1.00 g, 6.71 mmol), 2-hydroxyphenylboronic acid (972 mg, 7.05 mmol) and trans dichlorobis(triphenylphosphine) palladium (II) (471 mg, 0.671 mmol) were added acetonitrile (20 mL) and sodium carbonate (13.4 mL, 1.0 M in water, 13.4 mmol), and the resulting mixture was degassed by a nitrogen sparge. The reaction flask was equipped with a reflux condenser, then was placed in a pre-heated oil bath (75° C.) and was stirred rapidly. After 5 h, the reaction mixture was allowed to cool to room temperature, then was poured into water and extracted with EtOAc. The organic phase was separated and concentrated in vacuo. Purification by chromatography on silica gel (0 to 25% EtOAc in hexanes, then 25 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 207.6 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 11.64 (s, 1H), 9.11 (s, 1H), 8.53 (s, 1H), 7.85 (dd, J=8.0, 1.5 Hz, 1H), 7.40 (t, J=8.0 Hz, 1H), 7.07 (d, J=8.5 Hz, 1H), 6.99 (t, J=8.0 Hz, 1H).

reactant | 2,6-dichloropyrazine | 6.71 mmol, 1.00 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-hydroxyphenylboronic acid | 7.05 mmol, 972 mg | OC1=C(C=CC=C1)B(O)O | C6H7BO3
reactant | sodium carbonate | 13.4 mmol, 1.0 M, 13.4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-(6-Chloropyrazin-2-yl)phenol | ClC1=CN=CC(=N1)C1=C(C=CC=C1)O | C10H7ClN2O
